US07981920B2
Step A: tert-Butyl 3-[(5-oxido-4-(phenylsulphonyl)-1,2,5-oxadiazol-3-yl)-oxy]-propionate
Aqueous 50% NaOH solution (6.4 g-80 mmol) is added in the course of 15 minutes to a solution, cooled to 15° C., of 3,4-bis(phenylsulphonyl)-1,2,5-oxadiazole 2-oxide (16 g-44 mmol) and tert-butyl 3-hydroxypropionate (10 g-68 mmol) in 200 ml of anhydrous THF. After stirring for 2 hours, the solvent is removed in vacuo and the residue is taken up in 100 ml of water and 100 ml of ethyl acetate. The organic phase is decanted off, washed with saturated NaCl solution, dried with sodium sulphate and evaporated.

reactant | NaOH | [OH-].[Na+]
reactant | 3,4-bis(phenylsulphonyl)-1,2,5-oxadiazole 2-oxide | C1(=CC=CC=C1)S(=O)(=O)C1=[N+](ON=C1S(=O)(=O)C1=CC=CC=C1)[O-] | C14H10N2O6S2
reactant | tert-butyl 3-hydroxypropionate | OCCC(=O)OC(C)(C)C | C7H14O3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | tert-Butyl 3-[(5-oxido-4-(phenylsulphonyl)-1,2,5-oxadiazol-3-yl)-oxy]-propionate | [O-][N+]1=C(C(=NO1)OCCC(=O)OC(C)(C)C)S(=O)(=O)C1=CC=CC=C1 | C15H18N2O7S
